US06410539B1
A mixture of methyl 5-bromomethyl-2-(4-fluorobenzyl)benzoate (3.8 g), sodium azide (2.9 g) and dimethyl acetamide (50 ml) was stirred under an inert atmosphere for 16 hours. The dimethyl acetamide was evaporated and the residue was partitioned between water and ethyl acetate. The organic layer was separated, dried, evaporated to dryness and purified by flash chromatography using iso-hexane/ethyl acetate (80:20) as eluant to give methyl 5-azidomethyl-2-(4-fluorobenzyl)benzoate (3.23 g) as a colourless gum.

reactant | methyl 5-bromomethyl-2-(4-fluorobenzyl)benzoate | 3.8 g | BrCC=1C=CC(=C(C(=O)OC)C1)CC1=CC=C(C=C1)F | C16H14BrFO2
reactant | sodium azide | 2.9 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethyl acetamide | 50 ml | CC(=O)N(C)C | C4H9NO
product | methyl 5-azidomethyl-2-(4-fluorobenzyl)benzoate | 3.23 g | N(=[N+]=[N-])CC=1C=CC(=C(C(=O)OC)C1)CC1=CC=C(C=C1)F | C16H14FN3O2
